US04062862
5.4 g of o-benzyl-1-allylphenol was added to 600 ml of chloroform solution containing perbenzoic acid prepared from 26.4 g of benzoyl peroxide and the mixture was allowed to stand at about 5° C for 4 days. The reslting mixture was washed with sodium hydroxide solution, water, Mohr's salt solution, then saturated sodium chloride solution, and dried over anhydrous sodium sulfate. The solvent was evaporated to obtain the residue which was distilled under reduced pressure, and there was obtained 4.1 g (yield 70.1%) of o-benzyloxyallylbenzene oxide having a boiling point of 158° to 160° C/5 mmHg as colourless oil.

reactant | o-benzyl-1-allylphenol | 5.4 g | C(C1=CC=CC=C1)C1C(C=CC=C1)(O)CC=C | C16H18O
reactant | perbenzoic acid | C1=CC=CC=C1C(=O)OO | C7H6O3
reactant | benzoyl peroxide | 26.4 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | chloroform | 600 ml | C(Cl)(Cl)Cl | CHCl3
product | o-benzyloxyallylbenzene oxide | 4.1 g, yield 70.1% | C(C1=CC=CC=C1)OC=CCC12C(C=CC=C1)O2 | C16H16O2
